US07307167B2
2-Amino-6-chloropurine (150 g, 0.89 mol) and acetic anhydride (108 g, 1.06 mol) were added to N,N-dimethylacetamide (350 ml), and the mixture was heated to 50-60° C. and stirred for 4 hr. The reaction mixture was cooled and filtrated. The obtained crystals were washed with isopropanol (400 ml) and dried at 80° C. under reduced pressure to give 9-acetyl-2-amino-6-chloropurine as a pale-yellow powder (187 g, yield 99.0%).

reactant | 2-Amino-6-chloropurine | 0.89 mol, 150 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | acetic anhydride | 1.06 mol, 108 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | N,N-dimethylacetamide | 350 ml | CN(C(C)=O)C | C4H9NO
product | 9-acetyl-2-amino-6-chloropurine | 187 g, yield 99.0% | C(C)(=O)N1C2=NC(=NC(=C2N=C1)Cl)N | C7H6ClN5O
